US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxymethoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in N,N-dimethylformamide (1 ml), then thereto is added morpholine (30 μl). After addition of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride (66 mg) and 1-hydroxybenzotriazole hydrate (46 mg) under ice-cooling, the mixture is stirred at room temperature for 4 hours. Water is added to the reaction mixture and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=19:1) to give (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[2-(morpholin-4-yl)-2-oxoethoxy]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (138 mg). MS (m/z): 727 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxymethoxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OCC(=O)O)CC | C29H29F6N5O6
reactant | morpholine | 30 μl | N1CCOCC1 | C4H9NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 66 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 46 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[2-(morpholin-4-yl)-2-oxoethoxy]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 138 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OCC(=O)N1CCOCC1)CC | C33H36F6N6O6
